US07157488B2
N-t-Butoxycarbonyl-2-(6-butoxy-1H-indol-3-yl)ethylamine
Combine N-t-butoxycarbonyl-2-(6-hydroxy-1H-indol-3-yl)ethylamine (250 mg, 0.9 mmol), cesium carbonate (295 mg, 0.9 mmol) and 1-iodobutane (200 mg, 1.1 mmol) and N-methylpyrrolidinone (10 mL) and stir at ambient temperature for 2 hours and pour into 75 mL brine. Extract the mixture twice with 25 mL EtOAc. Wash the combined extracts with brine 2×50 mL, dry over MgSO4, and concentrate under vacuum to give an oil. Chromatograph the oil on silica gel eluting with 30% EtOAc in hexanes to give the title compound as a solid: ISMS 333 (M+1); Analysis for C19H28N2O3: calcd: C, 68.65; H, 8.49; N, 8.43; found: C, 68.83; H, 8.18; N, 8.33.

reactant | N-t-butoxycarbonyl-2-(6-hydroxy-1H-indol-3-yl)ethylamine | 0.9 mmol, 250 mg | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC(=CC=C12)O | C15H20N2O3
reactant | cesium carbonate | 0.9 mmol, 295 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodobutane | 1.1 mmol, 200 mg | ICCCC | C4H9I
reactant | N-methylpyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | brine | 75 mL | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-t-Butoxycarbonyl-2-(6-butoxy-1H-indol-3-yl)ethylamine | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC(=CC=C12)OCCCC | C19H28N2O3
